US07476764B2
Step 1: Preparation of {(2R,3S)-4-(3,5-difluoro-phenyl)-3-[3-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)-5-(1-hydroxy-ethyl)-benzoylamino]-2-hydroxy-butyl}-(3-methoxy-benzyl)-carbamic acid tert-butyl ester.
[(2R,3S)-3-[3-Acetyl-5-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)-benzoylamino]-4-(3,5-difluoro-phenyl)-2-hydroxy-butyl]-(3-methoxy-benzyl)-carbamic acid tert-butyl ester (16 mg, 0.022 mmol) was dissolved in MeOH (0.2 mL) and sodium borohydride (1.13 mg, 0.03 mmol) was added. The reaction mixture was stirred at room temperature for 2 h. The mixture was concentrated and partitioned between ethyl acetate and H2O. The organic layer was separated and concentrated to give the title compound which was used in the next step without further purification: HPLC retention time: 2.073 min (method A). MS (ESI) (M+H)+ 718.30.

reactant | [(2R,3S)-3-[3-Acetyl-5-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)-benzoylamino]-4-(3,5-difluoro-phenyl)-2-hydroxy-butyl]-(3-methoxy-benzyl)-carbamic acid tert-butyl ester | 0.022 mmol, 16 mg | C(C)(C)(C)OC(N(CC1=CC(=CC=C1)OC)C[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C1=CC(=CC(=C1)N1S(CCCC1)(=O)=O)C(C)=O)=O)O)=O | C36H43F2N3O8S
reactant | sodium borohydride | 0.03 mmol, 1.13 mg | [BH4-].[Na+]
solvent | MeOH | 0.2 mL | CO | CH4O
product | {(2R,3S)-4-(3,5-difluoro-phenyl)-3-[3-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)-5-(1-hydroxy-ethyl)-benzoylamino]-2-hydroxy-butyl}-(3-methoxy-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC1=CC(=CC=C1)OC)C[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C1=CC(=CC(=C1)C(C)O)N1S(CCCC1)(=O)=O)=O)O)=O | C36H45F2N3O8S
